US04179508
4,4-Dimethyl-2-(2-methylsulfinyl-ethyl)-2H,4H-isoquinoline-1,3-dione by method C
6.9 ml of 30% hydrogen peroxide were added to a solution of 16 gm of 4,4-dimethyl-2-(2-methylmercapto-ethyl)-2H,4H-isoquinoline-1,3-dione in 30 ml of glacial acetic acid, while maintaining the temperature between 20° and 40° C. After 15 minutes the reaction mixture was poured into water, and the resulting mixture was neutralized with ptoassium carbonate and extracted with chloroform. The chloroform phase was evaporated, the residue was purified on a silicagel column (eluant: chloroform/acetone 19:1), and after evaporation of the eluate the residue was recrystallized from cyclohexane by addition of seed crystals.

reactant | hydrogen peroxide | 6.9 ml | OO | H2O2
reactant | 4,4-dimethyl-2-(2-methylmercapto-ethyl)-2H,4H-isoquinoline-1,3-dione | 16 gm | CC1(C(N(C(C2=CC=CC=C12)=O)CCSC)=O)C | C14H17NO2S
reactant | water | O | H2O
reactant | carbonate | C([O-])([O-])=O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 4,4-Dimethyl-2-(2-methylsulfinyl-ethyl)-2H,4H-isoquinoline-1,3-dione | CC1(C(N(C(C2=CC=CC=C12)=O)CCS(=O)C)=O)C | C14H17NO3S
